US05030629
Preparation of 1-(2-Ethoxyethyl)-2-undecyl-2-imidazoline
1-(2-methoxyethyl)-2-undecyl-2-imidazoline was similarly prepared from 30.8 g of ethyl dodecanoate and 16 g of N-(2-methoxyethyl)ethylenediamine. Distillation of the crude product at 150° C./0.1 mm gave 9.3 g of pure product.

reactant | 1-(2-methoxyethyl)-2-undecyl-2-imidazoline | COCCN1C(=NCC1)CCCCCCCCCCC | C17H34N2O
reactant | ethyl dodecanoate | 30.8 g | C(CCCCCCCCCCC)(=O)OCC | C14H28O2
reactant | N-(2-methoxyethyl)ethylenediamine | 16 g | COCCNCCN | C5H14N2O
product | 1-(2-Ethoxyethyl)-2-undecyl-2-imidazoline | 9.3 g | C(C)OCCN1C(=NCC1)CCCCCCCCCCC | C18H36N2O
